US07186729B2
Step 2: 3-Methyl-4-oxo-piperidine-1,3-dicarboxylic acid-1-tert-butyl ester 3-methyl ester
4-Oxo-piperidine-1,3-dicarboxylic acid 1-tert-butyl ester 3-methyl ester (2.00 g, 6.8 mmol) was dissolved in tetrahydrofuran and cooled to 0° C. To the solution was added NaH (0.300 g, 12.5 mmol) portionwise over 1 h. H2(g) was evolved during the addition. The reaction was allowed to stir for 30 minutes at 0° C. and then methyl iodide (0.422 mL, 6.8 mmol) was added and allowed to stir at room temperature for 13 h. The reaction was quenched with ice water and concentrated down. The residue was partitioned between water and ethyl acetate. The aqueous layer was extracted with EtOAc (3×), the organics were collected together dried over Mg2SO4, filtered and evaporated in vacuo, then purified by Biotage flash chromatography (10% ethyl acetate/90% hexane to yield the title compound (1.1 g, 52%). 1H-NMR (CDCl3): δ 1.29 (s, 3H), 1.47 (s, 9H), 2.47 (dt, 1H), 2.76 (m, 1H), 3.07 (d, 1H), 3.33 (dt, 1H), 3.71 (s, 3H), 4.11 (m, 1H), 4.50 (d, 1H).

reactant | 4-Oxo-piperidine-1,3-dicarboxylic acid 1-tert-butyl ester 3-methyl ester | 6.8 mmol, 2.00 g | COC(=O)C1CN(CCC1=O)C(=O)OC(C)(C)C | C12H19NO5
reactant | NaH | 12.5 mmol, 0.300 g | [H-].[Na+]
reactant | methyl iodide | 6.8 mmol, 0.422 mL | CI | CH3I
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 3-Methyl-4-oxo-piperidine-1,3-dicarboxylic acid-1-tert-butyl ester 3-methyl ester | 1.1 g, 52% | COC(=O)C1(CN(CCC1=O)C(=O)OC(C)(C)C)C | C13H21NO5
